US07368578B2
A mixture of ethyl (4-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl)-2-methoxyphenoxy)methyl]-5-ethyl-1,3-oxazol-2-yl}phenyl)acetate (2.00 g), [(1-ethyl-1H-imidazol-5-yl)methyl](triphenyl)phosphonium chloride hydrochloride (2.29 g), anhydrous potassium carbonate (1.78 g) and N,N-dimethylformamide (30 mL) was stirred at room temperature for 16 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (9:1 to 1:0, v/v) to give ethyl {4-[4-({4-[({4-[(Z)-2-(1-ethyl-1H-imidazol-5-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate as colorless crystals (0.459 g, yield 20%). The crystals were recrystallized from tetrahydrofuran-hexane. melting point: 85-86° C.

reactant | ethyl (4-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl)-2-methoxyphenoxy)methyl]-5-ethyl-1,3-oxazol-2-yl}phenyl)acetate | 2.00 g | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2CC)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C34H33N3O7
reactant | [(1-ethyl-1H-imidazol-5-yl)methyl](triphenyl)phosphonium chloride hydrochloride | 2.29 g | Cl.[Cl-].C(C)N1C=NC=C1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 1.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl {4-[4-({4-[({4-[(Z)-2-(1-ethyl-1H-imidazol-5-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate | 0.459 g, yield 20% | C(C)N1C=NC=C1\C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C39H39N5O6
